US06716863B2
(ii) 4-{4-[2-(2-hydroxyethyl)-1H-imidazol-1-yl]butyl}phenol
Using 2-(1-{4-[4-(benzyloxy)phenyl]butyl}-1H-imidazol-2-yl)-1-ethanol (10.67 g) and 10% palladium carbon (1.6 g), the same reaction as Reference Example 11-(v) was carried out to yield the titled compound (5.3 g).

reactant | 2-(1-{4-[4-(benzyloxy)phenyl]butyl}-1H-imidazol-2-yl)-1-ethanol | 10.67 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCO | C22H26N2O2
catalyst | palladium carbon | 1.6 g | [C].[Pd]
product | 4-{4-[2-(2-hydroxyethyl)-1H-imidazol-1-yl]butyl}phenol | 5.3 g | OCCC=1N(C=CN1)CCCCC1=CC=C(C=C1)O | C15H20N2O2
